US07495103B2
To a solution of 2′-ethoxy-2-nitrobiphenyl-4-carbonitrile (500 mg, 1.86 mmol) in THF (80 mL) was added a solution of BH3.THF (5.6 mL, 10% wt. in THF, 5.6 mmol) at 0° C. over 30 min. The reaction mixture was stirred at 0° C. for 3 h and then at room temperature for 15 h. The reaction solution was chilled to 0° C., and a H2O/THF mixture (3 mL) was added. After being agitated at room temperature for 6 h, the volatiles were removed under reduced pressure. The residue was dissolved in EtOAc (100 mL) and extracted with 1N HCl (2×100 mL). The aqueous phase was basified with 1N NaOH solution to pH land extracted with EtOAc (3×50 mL). The combined organic layers were washed with water (50 mL), dried over Na2SO4, filtered, and evaporated. After drying under vacuum, 4-aminomethyl-2′-ethoxy-biphenyl-2-ylamine was isolated as a brown oil (370 mg, 82%). 1H NMR (300 MHz, DMSO-d6) δ 7.28 (dt, J=7.2 Hz, J=1.8 Hz, 1H ), 7.09 (dd, J=7.2 Hz, J=1.8 Hz, 1H), 7.05 (d, J=7.5 Hz, 1H), 6.96 (dt, J=7.2 Hz, J=0.9 Hz, 1H), 6.83 (d, J=7.5 Hz, 1H), 6.66 (d, J=1.2 Hz, 1H), 6.57 (dd, J=7.5 Hz, J=1.5 Hz, 1H), 4.29 (s, 2H), 4.02 (q, J=6.9 Hz, 2H), 3.60 (s, 2H), 1.21 (t, J=6.9 Hz, 3H); HPLC ret. time 1.54 min, 10-100% CH3CN, 5 min gradient; ESI-MS 243.3 m/z (MH+).

reactant | 2′-ethoxy-2-nitrobiphenyl-4-carbonitrile | 1.86 mmol, 500 mg | C(C)OC1=C(C=CC=C1)C1=C(C=C(C=C1)C#N)[N+](=O)[O-] | C15H12N2O3
reactant | BH3.THF | 5.6 mmol, 5.6 mL | B.C1CCOC1
reactant | H2O THF | 3 mL | O.C1CCOC1
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 4-aminomethyl-2′-ethoxy-biphenyl-2-ylamine | NCC1=CC(=C(C=C1)C1=C(C=CC=C1)OCC)N | C15H18N2O
